US06774086B2
0.922 g (7.2 mmol) of K2CO3, 0.179 g (1.10 mmol) of Kl and 0.644 g (4.3 mmol) of N,N-diethylchloroacetamide were introduced into 30 ml of DMF. 1.000 g (3.6 mmol) of methyl 2-chloro-3-hydroxy-4-ethylsulfonylbenzoate were added at RT and the mixture was then heated for 7 hours at 120° C. The mixture was then poured into water and extracted with diisopropyl ether. The organic phases were washed with water, dried over Na2SO4 and concentrated completely. Chromatography on silica gel (eluent: n-heptane/ethyl acetate 1:1) gave methyl 2-chloro-3-(N,N-diethylaminocarbonylmethoxy) -4-ethylsulfonylbenzoate as a colorless viscous oil.

reactant | K2CO3 | 7.2 mmol, 0.922 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-diethylchloroacetamide | 4.3 mmol, 0.644 g | C(C)N(C(CCl)=O)CC | C6H12ClNO
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | methyl 2-chloro-3-hydroxy-4-ethylsulfonylbenzoate | 3.6 mmol, 1.000 g | ClC1=C(C(=O)OC)C=CC(=C1O)S(=O)(=O)CC | C10H11ClO5S
solvent | water | O | H2O
product | methyl 2-chloro-3-(N,N-diethylaminocarbonylmethoxy) -4-ethylsulfonylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1OCC(=O)N(CC)CC)S(=O)(=O)CC | C16H22ClNO6S
